US07491722B2
4-(3-Oxo-butyryl)-benzoic acid methyl ester
A solution of dimethyl terephthalate (10 g, 51.5 mmole) and acetone (4.15 mL, 56.6 mmole) in a mixture of toluene/dimethoxyethane (75 mL/25 mL) was added to a suspension of NaH 60% (2.68 g, 66.9 mmole) in dry toluene (25 mL) under argon. The mixture was heated at 100° C. for 4 hours. The reaction mixture was cooled to rt and 25 mL of water were added. The pH was adjusted to 3-4 with HCl 2N and the mixture was poured into water (300 mL). The aqueous mixture was extracted with ethyl acetate (3×150 mL), dried over sodium sulphate and evaporated to afford a yellow solid which was purified by column cromatography (n-Hex/EtOAc 9:1 to 7:3) to afford the title compound (2.78 g, 25% yield) as a yellow solid.

reactant | dimethyl terephthalate | 51.5 mmole, 10 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | acetone | 56.6 mmole, 4.15 mL | CC(=O)C | C3H6O
reactant | NaH | 66.9 mmole, 2.68 g | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | toluene dimethoxyethane | 75 mL | C1(=CC=CC=C1)C.C(OC)COC
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 4-(3-Oxo-butyryl)-benzoic acid methyl ester | 2.78 g, 25% yield | COC(C1=CC=C(C=C1)C(CC(C)=O)=O)=O | C12H12O4
